US05556860
(a) Synthesis of 5-chloro-2-trichloroacetylaminobenzophenone
To a solution of 23.2 g (100 mmol) of 2-amino-5-chlorobenzophenone and 11 g (110 mmol) of triethylamine in 200 mL of tetrahydrofuran was added dropwise 20 g (110 mmol) of trichloroacetyl chloride at temperature of 5° C. to 15° C. After being stirred for 3 hours at ambient temperature, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The organic layer separated was washed with water and then with brine, dried on anhydrous sodium sulfate and concentrated in vacuo. The resulting crude crystals were recrystallized from ethanol to give 33.8 g (89.9 mmol) of the title compound.

reactant | 2-amino-5-chlorobenzophenone | 100 mmol, 23.2 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | triethylamine | 110 mmol, 11 g | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 110 mmol, 20 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 5-chloro-2-trichloroacetylaminobenzophenone | 89.9 mmol, 33.8 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)NC(C(Cl)(Cl)Cl)=O | C15H9Cl4NO2
